US07829570B2
N1-{4-[7-Amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]phenyl}-1-benzenesulfonamide bisacetate
The title compound was prepared from tert-butyl 4-[7-amino-1-(4-aminophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1-piperidinecarboxylate and benzenesulfonyl chloride in the manner described for the preparation of N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide: 1H NMR (DMSO-d6, 400 MHz) δ 8.22 (s, 1H), 7.75 (m, 2H), 7.45 (m, 3H), 7.14 (d, 2H), 7.02 (d, 2H), 6.5 (bs, 1H), 3.0-3.3 (m, 3H), 2.77 (m, 2H), 2.0 (m, 4H), 1.89 (s, 6H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 11.63 min; MS: MH+ 450.0, M−H+ 448.0

reactant | tert-butyl 4-[7-amino-1-(4-aminophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1-piperidinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)N)C2CCN(CC2)C(=O)OC(C)(C)C | C21H27N7O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | N1-{4-[7-Amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]phenyl}-1-benzenesulfonamide bisacetate | C(C)(=O)O.C(C)(=O)O.NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)NS(=O)(=O)C2=CC=CC=C2)C2CCNCC2 | InChI=1S/C22H23N7O2S.2C2H4O2/c23-22-21-20(25-14-26-22)19(15-10-12-24-13-11-15)27-29(21)17-8-6-16(7-9-17)28-32(30,31)18-4-2-1-3-5-18;2*1-2(3)4/h1-9,14-15,24,28H,10-13H2,(H2,23,25,26);2*1H3,(H,3,4)
